* TB: PGA OTA v2 AC Open-Loop Analysis - sf Corner
.option scale=1e-6
.lib "sky130_minimal_v2.lib.spice" sf
.include "ota_pga_v2.spice"

.param vdd_val = 1.8
.param vcm_val = 0.9

Vdd vdd 0 dc {vdd_val}

* Self-biasing vbn — tracks process corner
Ibias_n vdd vbn dc 1500n
Xbias_n vbn vbn 0 0 sky130_fd_pr__nfet_01v8 W=11.4 L=14 nf=1

* Unused bias pins (declared but unused in subcircuit)
Vbcn vbcn 0 dc 0.88
Vbp  vbp  0 dc 0.73
Vbcp vbcp 0 dc 0.475

* AC bypass on self-biased vbn
Cbn vbn 0 1

* AC stimulus on non-inverting input (inn)
Vinn inn 0 dc {vcm_val} ac 1

* Loop-breaking: out → inp (inverting)
Lbreak out inp 1G
Cdc inp 0 1

Xota vdd 0 inp inn out vbn vbcn vbp vbcp ota_pga_v2
CL out 0 10p

.ac dec 100 0.1 100Meg

.control
run

meas ac gain_peak_raw MAX vdb(out)
meas ac g1_raw FIND vdb(out) AT=1
meas ac g10_raw FIND vdb(out) AT=10
meas ac g100_raw FIND vdb(out) AT=100
meas ac ugb_raw WHEN vdb(out)=0 FALL=1
meas ac phase_ugb_rad FIND vp(out) WHEN vdb(out)=0 FALL=1

let phase_ugb_deg = phase_ugb_rad * 180 / 3.14159265359

echo "gain_peak = $&gain_peak_raw"
echo "g1 = $&g1_raw"
echo "g10 = $&g10_raw"
echo "g100 = $&g100_raw"
echo "ugb = $&ugb_raw"
echo "phase_ugb = $&phase_ugb_deg"

quit
.endc
.end
